US04529732
A. N-Methoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol
To a 0° C. solution of 193 mg (0.471 mmole) of cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol and 0.29 ml triethylamine in 2.2 ml tetrahydrofuran is added dropwise 40 microliters (0.518 mmole) of methyl chloroformate. The reaction is stirred 40 minutes and then another 10 microliters of methyl chloroformate is added. The reaction is stirred 40 minutes longer, diluted with ether and filtered. The filtrate is washed with saturated sodium bicarbonate and saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The crude product is purified via column chromatography on 10.4 g of silica gel eluting in 3 ml fractions with 1:3 ethyl ether/hexane to yield (fractions 16-30) 198 mg (80%) of the title compound as an oil.

reactant | cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 0.471 mmole, 193 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@@H]1NCC[C@@H](C1)O | C27H39NO2
reactant | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.518 mmole, 40 microliters | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 10 microliters | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-Methoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 198 mg, 80% | COC(=O)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C29H41NO4
